US09422271B2
N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-(thiophen-2-yl)pyrimidin-4-amine (R═H) (Compound 27)
A mixture of 2-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine (170 mg, 0.64 mmol, 1.0 equiv.), thiophen-2-ylboronic acid (107 mg, 0.83 mmol, 1.3 equiv.), Pd(PPh3)4 (148 mg, 0.128 mmol, 0.2 equiv.), Na2CO3 (238 mg, 2 mmol, 3.5 equiv.), 1,4-dioxane (5 ml) and water (1 ml) was stirred at 100° C. under a nitrogen atmosphere for 15 h. The reaction mixture was allowed to cool down to room temperature and concentrated to give a residue. The residue was purified by silica gel chromatography (CH2Cl2/methanol 500:1 to 100:1 as eluent) to afford title compound N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-(thiophen-2-yl)pyrimidin-4-amine (Compound 27)(92.2 mg, 50.9%) as solid. LC-MS (m/z)=284.0 [M+H]+; 1H NMR (400 MHz, DMSO-d6): δ 0.71 (m, 2H), 0.95 (m, 2H), 1.94 (m, 1H), 6.35 (s, 1H), 6.87 (s, 1H), 7.17 (m, 1H), 7.70 (m, 1H), 7.83 (d, J=2.8 Hz, 1H), 8.23 (d, J=5.6 Hz, 1H), 9.91 (s, 1H), 12.08 (s, 1H).

reactant | 2-bromo-N-(5-cyclopropyl-1H-pyrazol-3-yl)pyrimidin-4-amine | 0.64 mmol, 170 mg, 1.0 equiv. | BrC1=NC=CC(=N1)NC1=NNC(=C1)C1CC1 | C10H10BrN5
reactant | thiophen-2-ylboronic acid | 0.83 mmol, 107 mg, 1.3 equiv. | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 2 mmol, 238 mg, 3.5 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.128 mmol, 148 mg, 0.2 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 ml | O | H2O
product | N-(5-cyclopropyl-1H-pyrazol-3-yl)-2-(thiophen-2-yl)pyrimidin-4-amine | 92.2 mg, 50.9% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1)C=1SC=CC1 | C14H13N5S
